US05180723
Sodium hydride (60% dispersion in oil: 190 mg, 4.7 mmol) was added to a stirred solution of N-1,2-diphenylethyl 4-bromomethylbenzenesulphonamide (2.00 g, 4.7 mmol) in dry THF (50 ml) at 0° C. under argon. Methyl iodide (0.6 ml, 9.3 mmol) was added immediately to the reaction mixture. The mixture was stirred for 48 h at ambient temperature. Saturated aqueous ammonium chloride (50 ml) was added and the mixture extracted with ethyl acetate (2×80 ml). The combined organics were washed with brine (50 ml), dried over anhydrous sodium sulphate, filtered and concentrated to give N-methyl-N-1,2-diphenylethyl 4-bromomethylbenzenesulphonamide as an orange oil which was used directly in the next step.

reactant | Sodium hydride | 4.7 mmol, 190 mg | [H-].[Na+]
reactant | N-1,2-diphenylethyl 4-bromomethylbenzenesulphonamide | 4.7 mmol, 2.00 g | C1(=CC=CC=C1)C(CC1=CC=CC=C1)NS(=O)(=O)C1=CC=C(C=C1)CBr | C21H20BrNO2S
reactant | Methyl iodide | 9.3 mmol, 0.6 ml | CI | CH3I
reactant | ammonium chloride | 50 ml | [Cl-].[NH4+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | N-methyl-N-1,2-diphenylethyl 4-bromomethylbenzenesulphonamide | CN(S(=O)(=O)C1=CC=C(C=C1)CBr)C(CC1=CC=CC=C1)C1=CC=CC=C1 | C22H22BrNO2S
